US04795821
Preparation of Cyclopentyl(1-octynyl)isopropoxyborane
Cyclopentyldiisopropoxyborane (2.33 g, 37 mmol) in ethyl ether (37 mL) was added to an ethereal solution of 1-octynyllithium (41 mmoL in 41 mL ethyl ether), then quenched with HCl in ethyl ether (12.0 mL, 41 mmol). Workup as described in Example 14 yielded 6.95 g (76%), bp 100°-102° C. (0.1 mm Hg); n20D 1.4557; proton NMR (CDCl3) δ4.63 (septet, J=18 Hz, 1H), 2.23 (triplet, 1H), 1.17 (d, J=18 Hz, 6H), 0.83 (triplet, 3H); boron NMR (EE) δ+41.2 ppm(s); mass spectrum (chemical ionization, isobutene) m/e 249 (M+H), 40%); IR (thin film) 2186, 1344 cm-1. Anal. Calcd. for C16H29BO: C, 77.42; H, 11.78. Found: C, 77.02; H, 11.92.

reactant | Cyclopentyldiisopropoxyborane | 37 mmol, 2.33 g | C1(CCCC1)B(OC(C)C)OC(C)C | C11H23BO2
reactant | 1-octynyllithium | 41 mL | C(#CCCCCCC)[Li]
reactant | HCl | Cl | ClH
reactant | boron | [B] | B
reactant | isobutene | C=C(C)C | C4H8
solvent | ethyl ether | 37 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 41 mmol, 12.0 mL | C(C)OCC | C4H10O
product | Cyclopentyl(1-octynyl)isopropoxyborane | C1(CCCC1)B(OC(C)C)C#CCCCCCC | C16H29BO
